US05859053
a) 2-Acetoxybenzoic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methylamide
The solution from 2-acetoxybenzoic acid (216 mg, 1.2 mmol) in dichloromethane (4 ml) is treated with triethylamine (0.15 ml, 1.2 mmol), cooled to 0° C., treated dropwise with ethyl chloroformate (0.144 ml, 1.0 mmol), stirred at 0° C. for 2 h and filtered. The filtrate is added at room temperature to a solution of 2,2-dimethyl-4-aminomethyl-1,3-dioxolane (293 mg, 1.0 mmol) and triethylamine (0.14 ml) in dichloromethane (4 ml). After 4 h, water (10 ml) is added and the mixture is stirred. The organic phase is washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and water, dried over magnesium sulphate and concentrated. The residue is purified by column chromatography on silica gel 60 (gradient hexane/ethyl acetate=3/1→1/1). Yield: 143 mg.

reactant | 2-acetoxybenzoic acid | 1.2 mmol, 216 mg | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | triethylamine | 1.2 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.0 mmol, 0.144 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2,2-dimethyl-4-aminomethyl-1,3-dioxolane | 1.0 mmol, 293 mg | CC1(OCC(O1)CN)C | C6H13NO2
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 2-Acetoxybenzoic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methylamide | CC1(OCC(O1)N(C(C1=C(C=CC=C1)OC(C)=O)=O)C)C | C15H19NO5
